US04284629
o-Halogeno-(hetero-)aryl-carboxylic acid halides which can be employed in the process according to the invention, and processes for their preparation, are known. Thus, for example, J. Am. Chem. Soc. 40,233 (1908) describes the preparation of 2-ethylmercapto-6-chloropyrimidine-5-carboxylic acid chloride by reacting 2-ethylmercapto-4-oxo-3,4-dihydropyrimidine-5-carboxylic acid with phosphorus oxychloride. The reaction of 2-hydroxy-quinoxaline-3-carboxylic acid with thionyl chloride in the presence of a catalytic amount of dimethylformamide to give 2-chloroquinoxaline-3-carboxylic acid chloride is described in Arch. Pharm. 306, 401 (1973). The reaction of 4-chloronicotinic acid with thionyl chloride under reflux to give 4-chloronicotinic acid chloride is described in J. Chem. Soc. (C), 1966, 1816.

reactant | 2-ethylmercapto-6-chloropyrimidine-5-carboxylic acid chloride | C(C)SC1=NC(=C(C=N1)C(=O)Cl)Cl | C7H6Cl2N2OS
reactant | 2-ethylmercapto-4-oxo-3,4-dihydropyrimidine-5-carboxylic acid | C(C)SC1=NC=C(C(N1)=O)C(=O)O | C7H8N2O3S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-hydroxy-quinoxaline-3-carboxylic acid | OC1=NC2=CC=CC=C2N=C1C(=O)O | C9H6N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-chloroquinoxaline-3-carboxylic acid chloride | ClC1=NC2=CC=CC=C2N=C1C(=O)Cl | C9H4Cl2N2O
